US08957064B2
2-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-b]pyridine
251.4 mg (0.84 mmol) 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde, a suspension in 10 mL DMF and 238 mg (1 mmol) 2-piperidine-4-yl-3H-imidazo[4,5-b]pyridine hydrochloride salt were stirred and treated as described in example 15.0. After stirring overnight at room temperature, the reaction mixture was worked up as described in example 15. After purification 90 mg of the desired product were obtained.

reactant | 4-(6-phenylpyrazolo[1,5-a]pyrimidin-5-yl)benzaldehyde | 0.84 mmol, 251.4 mg | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C19H13N3O
reactant | 2-piperidine-4-yl-3H-imidazo[4,5-b]pyridine hydrochloride salt | 1 mmol, 238 mg | Cl.N1CCC(CC1)C1=NC=2C(=NC=CC2)N1
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{1-[4-(6-phenyl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzyl]-piperidin-4-yl}-3H-imidazo[4,5-b]pyridine | C1(=CC=CC=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(CN1CCC(CC1)C1=NC=3C(=NC=CC3)N1)C=C2 | C30H27N7
